US04851526
N,N-Diethyl-N'-[4-(1H-imidazol-1-yl)phenyl]-N'-propyl-1,2-cyclohexanedicarboxamide
In a manner similar to Preparation 16, react diethylamine with 2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]-carbonyl]cyclohexanecarbonyl chloride to obtain the title compound.

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]-carbonyl]cyclohexanecarbonyl chloride | N1(C=NC=C1)C1=CC=C(C=C1)N(C(=O)C1C(CCCC1)C(=O)Cl)CCC | C20H24ClN3O2
product | N,N-Diethyl-N'-[4-(1H-imidazol-1-yl)phenyl]-N'-propyl-1,2-cyclohexanedicarboxamide | C(C)N(C(=O)C1C(CCCC1)C(=O)N(CCC)C1=CC=C(C=C1)N1C=NC=C1)CC | C24H34N4O2
